reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:7]>>[O:1]=[C:2]([O+:4]=[C:3]=[C:5]=[N-:6])[H:7],47.6624162392115
[C:1]([O:2][C@:3]1([H:12])[C@:4]([O:5][H:14])([H:13])[C@:6]1([O:7][H:17])[H:15])([H:8])([H:9])[H:10].[H:11][H:16]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],65.47610541237701
[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7]>>[O:1]([C:2][C:3]([C:4](=[O:5])[C:6]([H:8])([H:11])[H:12])([H:9])[H:10])[H:7],65.8022765689909
[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][n:5]1>>[N:1]1([H:6])[C:2]([H:7])=[C+:3][N:4]([H:8])[N-:5]1,84.1971849599974
[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[O:3])([H:7])[H:9].[C:4](=[C:5]=[N:6][H:8])([H:10])[H:11],69.0160968772929
[C:1]([N:2]([C:3](=[O:4])[H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C-:5]#[O+:6].[C:1](/[N:2]=[C:3](/[O:4][C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],111.46948341449301
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([O:3][H:11])[C:4]([H:12])([H:13])[N:5]([H:15])/[C:6]1=[N:7]\[H:14])([H:8])([H:9])[H:10],91.474578360861
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:17].[C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11].[O:5]=[C:6]([H:16])[H:18],112.855432392803
[C:2]1([H:8])([H:9])[C@@:3]([O:4][H:11])([H:10])[C@@:5]1([O:6][H:14])[H:12].[O:1]([H:7])[H:13]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],88.22946662967018
[O:1]([C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5]>>[O:1]([C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5],67.54399477442338
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[C:2]1([H:8])=[C:3]([H:9])[C:4]1([C:5](=[O:6])[H:12])[H:11].[O:1]([H:7])[H:10],79.5373003292947
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[H:14])[H:11])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:13])[H:15]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],46.048916461899196
[C:1]1([H:7])([H:8])[O:2][C@@:3]12[C:4]([H:9])([H:10])[O+:5]=[C-:6]2.[H:11][H:12]>>[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12],17.344962621207685
[C:1]([C:2](=[O:3])[C:4]([H:10])([H:11])[H:13])([H:7])([H:8])[H:9].[C:5]([O:6][H:14])[H:12]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],17.524776446532897
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@@:2]([O:3][H:12])([H:11])[C:4]([H:13])([H:14])[C@@:5]1([O:6][H:9])[N:7]([H:15])[H:16],84.19914443237509
[C:1]([O:6][H:14])([H:7])([H:8])[H:9].[C:2]1([H:10])=[C:5]([H:13])[C:3]1([O:4][H:12])[H:11]>>[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9],71.22530359569828
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:3]2([H:13])[C@@:4]1([H:14])[C:5]([H:15])([H:16])[C@:6]2([O:7][H:12])[H:17])([H:8])([H:9])[H:10],96.8584244471858
[C-:5]#[O+:6].[O:1]([C:2]([C:3][O:4][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],12.0230365490847
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C-:3][H:12])([H:8])([H:9])[H:10].[C:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])([H:11])[H:13],81.91348196460959
[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[O:3][C@@:4]1([O:5][H:8])[N:6]([H:12])[H:13]>>[C:1]([C:2]([O:3][C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],48.5079744285535
[C:1](/[N:2]=[C:3](\[O:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](\[O+:4]=[C-:5][O:6][H:11])[H:10])([H:7])([H:8])[H:9],77.95539620157821
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5]([O:6][H:13])=[C:7]([H:12])[H:14])[H:11])([H:8])([H:9])[H:10],67.36467424965589
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[C:6](/[O:7][C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],93.59400121930227
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:14][H:16],82.30374043693391
